US07498337B2
2-methyl-1-(phenylsulfonyl)-1H-pyrrole-3-carbaldehyde
To a mixture of [2-methyl-1-(phenylsulfonyl)-1H-pyrrol-3-yl]methanol (6.35 g), dimethyl sulfoxide (50 mL) and triethylamine (25 mL) was added sulfur trioxide-pyridine complex (4.57 g), and the mixture was stirred at room temperature for 12 hr. Saturated aqueous sodium hydrogencarbonate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract as washed with saturated aqueous sodium hydrogencarbonate solution, water and saturated brine, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=2:1) to give a white title compound (yield 5.27 g, 84%).

reactant | [2-methyl-1-(phenylsulfonyl)-1H-pyrrol-3-yl]methanol | 6.35 g | CC=1N(C=CC1CO)S(=O)(=O)C1=CC=CC=C1 | C12H13NO3S
reactant | dimethyl sulfoxide | 50 mL | CS(=O)C | C2H6OS
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | triethylamine | 25 mL | C(C)N(CC)CC | C6H15N
product | 2-methyl-1-(phenylsulfonyl)-1H-pyrrole-3-carbaldehyde | yield 5.27 g, 84% | CC=1N(C=CC1C=O)S(=O)(=O)C1=CC=CC=C1 | C12H11NO3S
